US08580841B2
Step B: Preparation of Methyl 4-Cyclopentyl-3-(trifluoromethyl)benzoate.
To zinc(II) chloride (0.5 M solution in tetrahydrofuran, 88.0 mL, 44.0 mmol) was added cyclopentylmagnesium chloride (2 M solution in ether, 20.5 mL, 41.1 mmol). The resulting suspension was stirred at room temperature for 1 h. To the above suspension was added methyl 4-chloro-3-(trifluoromethyl)benzoate (7.00 g, 29.3 mmol) and bis(tri-tert-butylphosphine)palladium (1.35 g, 2.64 mmol) at room temperature. The mixture was heated under reflux for 2 h. The mixture was allowed to cool to room temperature, quenched with saturated aqueous sodium bicarbonate solution and filtered. The filtrate was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography to give the title compound as an oil (7.64 g). LCMS m/z=273.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.57-1.66 (m, 2H), 1.68-1.82 (m, 2H), 1.82-1.94 (m, 2H), 2.04-2.21 (m, 2H), 3.33-3.49 (m, 1H), 3.93 (s, 3H), 7.54 (d, J=8.21 Hz, 1H), 8.13 (dd, J=8.34, 1.77 Hz, 1H), 8.27 (s, 1H).

reactant | cyclopentylmagnesium chloride | 41.1 mmol, 2 M, 20.5 mL | C1(CCCC1)[Mg]Cl
reactant | methyl 4-chloro-3-(trifluoromethyl)benzoate | 29.3 mmol, 7.00 g | ClC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H6ClF3O2
catalyst | zinc(II) chloride | 44.0 mmol, 0.5 M, 88.0 mL | [Cl-].[Zn+2].[Cl-]
catalyst | bis(tri-tert-butylphosphine)palladium | 2.64 mmol, 1.35 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Methyl 4-Cyclopentyl-3-(trifluoromethyl)benzoate | 7.64 g | C1(CCCC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H15F3O2
